US08492503B2
(a). Preparation of 2-hydroxy-1,1-dimethoxypent-4-ene (see D. Crestia et al., Tetrahedron: Asymmetry 12:869-876, 2001)
Indium powder (0.17 mol, 0.75 eq., 20 g, 100 mesh) was added to an ethanol (200 mL) solution containing 2,2-dimethoxyacetaldehyde (0.23 mol, 1.0 eq., 35 mL, 60 wt % solution in water) and allyl bromide (0.28 mol, 1.2 eq., 24 mL). The suspension was stirred at 40° C. for 3 h. The slurry was then centrifuged and the supernatant was decanted. The residual pellet was suspended in and washed 3 times with ethanol (3×150 mL). The combined supernatants were filtered and evaporated at reduced pressure to provide a thick oil (45° C., clear yellow oil, 56 g). The crude product resulting (25 g) was extracted with brine and ethyl acetate (2×). The combined organic layers were dried over sodium sulfate, filtered and evaporated at reduced pressure. Yield was 11 g (89%) of semi-purified oil. The product was purified by silica chromatography with a hexanes/ethyl acetate gradient on a Biotage SP-4 (FLASH 40+M) purification system. Purified yield 5.2 g (42%) clear colorless oil.

reactant | Indium | 0.17 mol, 20 g, 0.75 eq. | [In] | In
reactant | 2,2-dimethoxyacetaldehyde | 0.23 mol, 35 mL, 1.0 eq. | COC(C=O)OC | C4H8O3
reactant | allyl bromide | 0.28 mol, 24 mL, 1.2 eq. | C(C=C)Br | C3H5Br
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 2-hydroxy-1,1-dimethoxypent-4-ene | OC(C(OC)OC)CC=C | C7H14O3
